US06664264B2
A round bottom flask was charged with a magnetic stir bar, 2-{4-[bis(tert-butoxycarbonyl)amino]-2-butyl-6,7,8,9-tetrahydro-1H-imidazo[4,5-c]quinolin-1-yl }ethyl methanesulfonate (0.61 g, 1.08 mmol), benzenethiol (0.21 g, 1.88 mmol), triethylamine (0.25 g, 2.43 mmol) and anhydrous dimethyl formamide (11 mL) under a nitrogen atmosphere. The reaction mixture was heated to 80° C. to give a dark yellow, homogeneous solution that was maintained at 80° C. for 2.5 hours at which time the reaction was judged to be complete. The solution was cooled and then partitioned between ethyl acetate and saturated aqueous sodium bicarbonate. The layers were separated. The organic layer was washed with saturated aqueous sodium bicarbonate and brine, dried over anhydrous sodium sulfate, filtered and then concentrated under reduced pressure to afford a yellow oil. The material was purified by chromatography over silica gel (95/5 dichloromethane/methanol) to provide di(tert-butyl) 2-butyl-1-[2-(phenylthio)ethyl]-6,7,8,9-tetrahydro-1H-imidazo[4,5-c]quinolin-4-ylimidodicarbonate (0.54 g, 0.93 mmol) as a light yellow oil. MS (CI) for C32H44N4O4S m/z 581 (MH+), 481, 381, 245.

reactant | 2-{4-[bis(tert-butoxycarbonyl)amino]-2-butyl-6,7,8,9-tetrahydro-1H-imidazo[4,5-c]quinolin-1-yl }ethyl methanesulfonate | 1.08 mmol, 0.61 g | CS(=O)(=O)OCCN1C(=NC=2C(=NC=3CCCCC3C21)N(C(=O)OC(C)(C)C)C(=O)OC(C)(C)C)CCCC | C27H42N4O7S
reactant | benzenethiol | 1.88 mmol, 0.21 g | C1(=CC=CC=C1)S | C6H6S
reactant | triethylamine | 2.43 mmol, 0.25 g | C(C)N(CC)CC | C6H15N
solvent | dimethyl formamide | 11 mL | CN(C=O)C | C3H7NO
product | di(tert-butyl) 2-butyl-1-[2-(phenylthio)ethyl]-6,7,8,9-tetrahydro-1H-imidazo[4,5-c]quinolin-4-ylimidodicarbonate | 0.93 mmol, 0.54 g | C(CCC)C=1N(C2=C(C(=NC=3CCCCC23)N(C(=O)OC(C)(C)C)C(=O)OC(C)(C)C)N1)CCSC1=CC=CC=C1 | C32H44N4O4S
